US07582626B2
a) 2-(4-Fluoro-benzylamino)-cyclohexanecarboxylic acid ethyl ester
To a solution of cis-2-amino-cyclohexanecarboxylic acid ethyl ester hydrochloride (2.80 g, 12.81 mmol) in tetrahydrofuran (100 mL) at 25° C. was added magnesium sulfate (4.0 g), triethylamine (1.36 g, 13.48 mmol), and 4-fluorobenzaldehyde (3.26 g, 26.29 mmol) sequentially. The reaction was stirred at 25° C. for 16 h. The mixture was passed through a short pad of Celite and the filtrate was concentrated and dried in vacuo. The residue was re-dissolved in methanol (100 mL) at 25° C. To this solution was slowly added sodium borohydride (1.0 g, 26.29 mmol). The mixture was stirred at 25° C. for 1 h. It was then poured into a 1/2 saturated aqueous sodium bicarbonate solution and the mixture was extracted into ethyl acetate (3×100 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford a clear oil. Purification by flash column chromatography (Teledyne Isco RediSep Column; 0-50% ethyl acetate in hexanes) afforded the desired product, 2-(4-fluoro-benzylamino)-cyclohexanecarboxylic acid ethyl ester (4.47 g, 16.0 mmol, >100%, product still contains ethyl acetate), as a clear oil which was directly used in the next step. LC-MS (ESI) calcd for C16H22FNO2 279.16, found 280.0 [M+H+].

reactant | cis-2-amino-cyclohexanecarboxylic acid ethyl ester hydrochloride | 12.81 mmol, 2.80 g | Cl.C(C)OC(=O)[C@H]1[C@H](CCCC1)N
reactant | magnesium sulfate | 4.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | triethylamine | 13.48 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzaldehyde | 26.29 mmol, 3.26 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium borohydride | 26.29 mmol, 1.0 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(4-fluoro-benzylamino)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(CCCC1)NCC1=CC=C(C=C1)F | C16H22FNO2
